US04335142
PREPARATION OF p-t-BUTYLPHENYL 1-(p-CHLOROPHENYL SULFONYL)VINYL SULFIDE
p-t-Butylphenyl 1-(p-chlorophenylsulfonyl)-2-chloroethyl sulfide (16.12 g, 40.0 mmoles) was dissolved in 80 ml of tetrahydrofuran at 25° C. The solution was treated with 5.6 ml (4.08 g, 40.3 mmoles) of triethylamine and allowed to stand for 30 minutes. After filtration had separated the triethylamine hydrochloride, the filtrate was freed of solvent by evaporation at reduced pressure. The residue was a colorless solid, m.p. 74°-79°. Recrystallization from 25 ml of ethanol gave 12.2 g (84%) of pure product m.p. 79°-81°.

reactant | p-t-Butylphenyl 1-(p-chlorophenylsulfonyl)-2-chloroethyl sulfide | 40.0 mmoles, 16.12 g | ClC1=CC=C(C=C1)S(=O)(=O)C(CCl)SC1=CC=C(C=C1)C(C)(C)C | C18H20Cl2O2S2
reactant | triethylamine | 40.3 mmoles, 5.6 ml, 4.08 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | p-t-BUTYLPHENYL 1-(p-CHLOROPHENYL SULFONYL)VINYL SULFIDE | 12.2 g, 84% | ClC1=CC=C(C=C1)S(=O)(=O)C(=C)SC1=CC=C(C=C1)C(C)(C)C | C18H19ClO2S2
